US07977331B1
To a solution of ethyl 3-chloro-12-cyclohexyl-6-oxo-5-[2-oxo-2-(piperidin-1-yl)ethyl]-5,6,7,12-tetrahydrobenzo[2,3]azepino[4,5-b]indole-9-carboxylate (886 mg, 1.57 mmol) in tetrahydrofuran (15 ml) was added dropwise a solution (8.2 ml) of 1M BH3 THF complex in tetrahydrofuran under ice-cooling, and the mixture was stirred under ice-cooling for 30 min., at room temperature for 3 hr, at 30° C. for 2 hr, and further at 60-70° C. for 1 hr. The reaction mixture was allowed to cool, a solution (4.1 ml) of 1M BH3 THF complex in tetrahydrofuran was added, and the mixture was allowed to stand overnight at room temperature. The reaction mixture was stirred at 70° C. for 2 hr, 5M hydrochloric acid (8 ml) was added under ice-cooling, and the mixture was stirred at 70° C. for 2 hr. The reaction mixture was neutralized with 1N aqueous sodium hydroxide solution under ice-cooling, saturated sodium hydrogen carbonate solution was added and the mixture was extracted with ethyl acetate. The organic layer was successively washed with water and saturated brine and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate) to give ethyl 3-chloro-12-cyclohexyl-5-[2-(piperidin-1-yl)ethyl]-5,6,7,12-tetrahydrobenzo[2,3]azepino[4,5-b]indole-9-carboxylate (512 mg, yield 61%).

reactant | ethyl 3-chloro-12-cyclohexyl-6-oxo-5-[2-oxo-2-(piperidin-1-yl)ethyl]-5,6,7,12-tetrahydrobenzo[2,3]azepino[4,5-b]indole-9-carboxylate | 1.57 mmol, 886 mg | ClC=1C=CC2=C(N(C(CC3=C2N(C2=CC=C(C=C32)C(=O)OCC)C3CCCCC3)=O)CC(N3CCCCC3)=O)C1 | C32H36ClN3O4
reactant | hydrochloric acid | 5M, 8 ml | Cl | ClH
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | ethyl 3-chloro-12-cyclohexyl-5-[2-(piperidin-1-yl)ethyl]-5,6,7,12-tetrahydrobenzo[2,3]azepino[4,5-b]indole-9-carboxylate | 512 mg, yield 61% | ClC=1C=CC2=C(N(CCC3=C2N(C2=CC=C(C=C32)C(=O)OCC)C3CCCCC3)CCN3CCCCC3)C1 | C32H40ClN3O2
